US05120843
Butylmagnesium chloride (2.0M, 20.0 ml) is added dropwise over 20 min to a solution of 4-chloro-1-butanol (4.05 g) and THF (40.0 ml). The resultant solution is stirred for 20 min and then is added dropwise over 20 min to a mixture of magnesium (1.46 g) and THF (5.0 ml). The resulting warm mixture is heated at reflux for 3 hr, and then cooled in an ice bath. A solution of 3-ethoxy-2-cyclohexene-1-one (5.39 ml) and THF (20.0 ml) is then added dropwise over 20 min. The resultant solution is allowed to warm to 20°-25° and stir for 2 hr. Acidic workup using ether and hydrochoric acid (1%) and purification by flash chromatography eluting with ethyl acetate/hexane (4/1) provides 3-(4-hydroxybutyl)-cyclohex-2-en-1-one as an oil, IR (neat) 3413, 2942, 1664, 1600, 1257, 1185 cm-1 ; MS (EI) m/e (relative %) 168 (25), 123 (25), 97 (40), 82 (36), 55 (44), 42 (100).

reactant | Butylmagnesium chloride | 2.0M, 20.0 ml | C(CCC)[Mg]Cl
reactant | 4-chloro-1-butanol | 4.05 g | ClCCCCO | C4H9ClO
reactant | magnesium | 1.46 g | [Mg] | Mg
reactant | 3-ethoxy-2-cyclohexene-1-one | 5.39 ml | C(C)OC1=CC(CCC1)=O | C8H12O2
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
solvent | THF | 40.0 ml | C1CCOC1 | C4H8O
product | 3-(4-hydroxybutyl)-cyclohex-2-en-1-one | OCCCCC1=CC(CCC1)=O | C10H16O2
